US04362550
N-Benzoyl-L-valine, methyl ester
To 4.0 g. L-valine methyl ester hydrochloride dissolved in 25 ml water was added 3.35 g. benzoyl chloride while keeping the pH of the solution at approximately 8-9 with 1 N NaOH. The addition of the reactants took approximately 2 hours. Following addition of the reactants the reaction mixture was stirred at about 25° C. for 4 hours and then cooled to about 0° C. for 16 hours. The precipitated solid was collected and the filtrate was extracted twice with ether. The above collected solid was dissolved in this ether solution, which was then washed with a saturated sodium bicarbonate solution. The organic phase was dried and concentrated to give a white solid.

reactant | L-valine methyl ester hydrochloride | Cl.COC([C@@H](N)C(C)C)=O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
product | N-Benzoyl-L-valine, methyl ester | C(C1=CC=CC=C1)(=O)N[C@@H](C(C)C)C(=O)OC | C13H17NO3
